US06331553B1
Synthesis of 2-(3-(di-(t-butoxycarbonyl)aminomethyl)phenylamino) -3-nitropyridine
A mixture of 3-(di-(t-butoxycarbonyl)aminomethyl)aniline (1.50 g), triethylamine (2.0 ml), 2-chloro-3-nitropyridine (1.10 g) and anhydrous dimethylformamide (15 ml) was stirred at 60° C. for 20 h and, thereafter, ethyl acetate and water were added. The organic layer was washed with a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=3:1) to give 1.42 g of the titled compound (yield, 69%).

reactant | 3-(di-(t-butoxycarbonyl)aminomethyl)aniline | 1.50 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(N)C=CC1 | C17H26N2O4
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-nitropyridine | 1.10 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-(di-(t-butoxycarbonyl)aminomethyl)phenylamino) -3-nitropyridine | 1.42 g, 69% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C22H28N4O6
